US06743608B2
2-Propyl (2RS) 3-[4-(benzyloxy)phenyl]-2-ethoxypropanoate
The ester can be prepared by acid catalysed esterification of 3-[4-(benzyloxy)phenyl]-2-ethoxypropanoic acid with/in 2-propanol. Isocratic HPLC method 2 (4.96 min.): 98.4%.

reactant | 3-[4-(benzyloxy)phenyl]-2-ethoxypropanoic acid | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(=O)O)OCC | C18H20O4
reactant | 2-propanol | CC(C)O | C3H8O
product | 2-Propyl (2RS) 3-[4-(benzyloxy)phenyl]-2-ethoxypropanoate | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(=O)OC(C)C)OCC | C21H26O4
